US05624917
Oily sodium hydride (60%, 0.24 g) was added to a solution of tetraisopropyl methylenebisphosphonate (3.44 g) in dimethoxyethane (25 ml). The mixture was stirred at room temperature for 1 hour. Then, a solution of (E,E)-farnesyl bromide (1.43 g) in dimethoxyethane (5 ml) was added dropwise at 0° C. The reaction mixture was stirred at room temperature for 1 hour, then poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried (MgSO4), and then the solvent was distilled off under reduced pressure. The oily residue was subjected to column chromatography on silica gel. Tetraisopropyl (E,E)-farnesylmethylenebisphosphonate (1.67 g, 60.9%) was obtained as an oil from the fractions obtained by elution with ethyl acetate-chloroform (1:1, v/v).

reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | tetraisopropyl methylenebisphosphonate | 3.44 g | C(P(OC(C)C)(OC(C)C)=O)P(OC(C)C)(OC(C)C)=O | C13H30O6P2
reactant | (E,E)-farnesyl bromide | 1.43 g | C(\C=C(/C)\CC\C=C(/C)\CCC=C(C)C)Br | C15H25Br
reactant | water | O | H2O
solvent | dimethoxyethane | 25 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
product | Tetraisopropyl (E,E)-farnesylmethylenebisphosphonate | 1.67 g, 60.9% | C(\C=C(/C)\CC\C=C(/C)\CCC=C(C)C)C(P(OC(C)C)(OC(C)C)=O)P(OC(C)C)(OC(C)C)=O | C28H54O6P2
